US05886181
(S)-1-(Trifluoroacetyl)piperazine-2-carboxylic acid tert-butylamide
250 g (8.95 mmol) of 1-trifluoroacetyl-1,4,5,6-tetra-hydropyrazine-2-carboxylic acid tert-butylamide, 7.5 mg (18 μmol) of bis(1,5-cyclooctadiene)rhodium(I) tetrafluoroborate and 11.5 mg (21 μmol) of 1-[1(R)-(di-tert-butylphosphino)ethyl]-2(S)-(diphenylphosphino)ferrocene were placed in a 50 ml autoclave under argon (educt:catalyst=486). 20 ml of degassed ethyl acetate was added and hydrogenation was carried out for 18 hours at 90° C. under a hydrogen pressure of 13-10 bar. After distillation of the solvent, 2.50 g of the crude title compound was obtained in the form of a light yellow powder. After cleavage of the protecting groups, the enantioselectivity of the hydrogenation was determined by GC analysis, giving an ee of 47.2 percent. Other data concerning the title compound was:

reactant | 1-trifluoroacetyl-1,4,5,6-tetra-hydropyrazine-2-carboxylic acid tert-butylamide | 8.95 mmol, 250 g | C(C)(C)(C)NC(=O)C=1N(CCNC1)C(C(F)(F)F)=O | C11H16F3N3O2
catalyst | bis(1,5-cyclooctadiene)rhodium(I) tetrafluoroborate | 18 μmol, 7.5 mg | [B-](F)(F)(F)F.C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Rh]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (S)-1-(Trifluoroacetyl)piperazine-2-carboxylic acid tert-butylamide | 2.50 g | C(C)(C)(C)NC(=O)[C@H]1N(CCNC1)C(C(F)(F)F)=O | C11H18F3N3O2
